US08252755B2
Preparation of methyl 3-oxoicosanoate (XXI)
Stearic acid (5.0 g, 17.6 mmoles) is suspended in methylene chloride (88 mL) and 2,2-dimethyl-1,3-dioxane-4,6-dione (2.7 g, 18.5 mmoles), triethylamine (6.7 mL, 48.0 mmoles) and diethyl cyanophosphonate (2.7 mL, 17.6 mmoles) are added. All solids dissolve quickly. The solution is stirred for 16 hours at ambient temperature. The reaction mixture is then diluted with methylene chloride (100 mL) and carefully washed three times with aqueous hydrochloric acid (3 M, 50 mL each), three times with water (50 mL each) and once with saturated aqueous sodium chloride (50 mL). The reaction mixture is then dried over anhydrous sodium sulfate, filtered and evaporated. The resulting syrup is dissolved in anhydrous methanol (100 mL) and heated to reflux for 16 hours. The methanol is evaporated and the crude product dissolved in hexanes with slight heating. The crude product was then loaded on silica gel (150 mL bed volume) eluting with hexanes (500 mL) then hexane:acetone (98:2 [v/v], 1000 mL). Fractions containing pure product by thin layer chromatography are pooled and evaporated to dryness. The resulting oil is dried well in vacuo. The yield is 5.2 g (87%).

reactant | Stearic acid | 17.6 mmoles, 5.0 g | C(CCCCCCCCCCCCCCCCC)(=O)O | C18H36O2
reactant | 2,2-dimethyl-1,3-dioxane-4,6-dione | 18.5 mmoles, 2.7 g | CC1(OC(CC(O1)=O)=O)C | C6H8O4
reactant | triethylamine | 48.0 mmoles, 6.7 mL | C(C)N(CC)CC | C6H15N
reactant | diethyl cyanophosphonate | 17.6 mmoles, 2.7 mL | C(#N)P(OCC)(OCC)=O | C5H10NO3P
solvent | methylene chloride | 88 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 100 mL | C(Cl)Cl | CH2Cl2
product | methyl 3-oxoicosanoate | O=C(CC(=O)OC)CCCCCCCCCCCCCCCCC | C21H40O3
